US06159975
Step DD: (R)-4-chloro-1-(3,5-dimethylphenyl)-3-methylbutan-1-one
To a solution of (R)-3-(3,5-dimethylbenzoyl)-4-methyldihydrofuran-2-one (2.42 g in 15 mL dioxane) was added 15 mL conc. hydrochloric acid and the mixture heated to reflux on an oil bath. After one hour, the reaction was poured into cold, saturated aqueous sodium bicarbonate. Additional solid sodium bicarbonate was added until all acid was neutralized. This was then extracted with ethyl acetate, washed with brine. Concentration in vacuo provided the title compound (2.12 g).

reactant | (R)-3-(3,5-dimethylbenzoyl)-4-methyldihydrofuran-2-one | 15 mL, 2.42 g | CC=1C=C(C(=O)[C@@H]2C(OCC2C)=O)C=C(C1)C | C14H16O3
reactant | hydrochloric acid | 15 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (R)-4-chloro-1-(3,5-dimethylphenyl)-3-methylbutan-1-one | 2.12 g | ClC[C@@H](CC(=O)C1=CC(=CC(=C1)C)C)C | C13H17ClO
